US08003785B2
To a suspension of 5.9 g (0.091 g-atom) of zinc powder (−325 mesh) in 40 mL of tetrahydrofuran was added 0.2 mL of 1,2-dibromoethane. The mixture was heated at gentle reflux for 30 minutes. The mixture was cooled to room temperature and 7.1 mL (0.06 mole) of methyl trichloroacetate was added dropwise, followed by 9.1 mL (0.097 mole) of trimethylsilyl chloride at rate such the internal temperature was below 50 degrees. The mixture was stirred at room temperature for 1 hour and then diluted with hexane. The resulting solid was removed by filtration, and the filtrate concentrated under reduced pressure. Solids were removed by filtration, washing with hexane. The filtrated was concentrated under reduced pressure and the residue was then distilled under vacuum to give 8.0 g of (2,2-dichloro-1-methoxy-vinyloxy)-trimethyl-silane as a colorless oil. Bp 45-48 degrees at 1 mm Hg.

reactant | 1,2-dibromoethane | 0.2 mL | BrCCBr | C2H4Br2
reactant | methyl trichloroacetate | 0.06 mole, 7.1 mL | ClC(C(=O)OC)(Cl)Cl | C3H3Cl3O2
reactant | trimethylsilyl chloride | 0.097 mole, 9.1 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | zinc | 5.9 g | [Zn] | Zn
product | (2,2-dichloro-1-methoxy-vinyloxy)-trimethyl-silane | 8.0 g | ClC(=C(O[Si](C)(C)C)OC)Cl | C6H12Cl2O2Si
